US08058045B2
TFA (0.1 mL) was added to a solution of methyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)nicotinate (20 mg, 0.04 mmol) in dichloromethane (1 mL) at room temperature. After 20 minutes, the solution was evaporated to dryness and purified by ion exchange chromatography on SCX-II acidic resin (500 mg) eluting with methanol, then 2M ammonia-methanol. The basic fractions were combined and solvent was evaporated to give methyl 6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-4-ylmethylamino)-nicotinate compound as a yellow solid (11 mg, 70%).

reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-6-(5-cyanopyrazin-2-ylamino)nicotinate | 0.04 mmol, 20 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=CC(=NC=C1C(=O)OC)NC1=NC=C(N=C1)C#N | C23H29N7O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | methyl 6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-4-ylmethylamino)-nicotinate | 11 mg, 70% | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=O)OC)C(=C1)NCC1CCNCC1 | C18H21N7O2
